US06610734B2
A. Diethyl-3-ethyl-5-oxopyrrolidine-2,2-dicarboxylate
To 150 mg of sodium dissolved in 150 mL of absolute ethanol was added diethyl acetamidomalonate (5.3 g, 25 mmol) and ethyl-(2E)-pent-2-enoate (3.5 g, 27.3 mmol). The reaction mixture was then refluxed for 20 h. After this period of time, 2 mL of glacial acetic acid was added, volatiles were removed under pressure with the aid of a water aspirator and heating bath. On cooling the residue solidified. The residue was dissolved in 50 mL of toluene and to this was added 20 mL of petroleum ether. The product precipitated when the mixture was cooled. The crystals were collected and washed with water and further dried in vacuo to obtain a white solid (5.6 g, 79.77%). Mass Spectrum (+ESI): 258 (M+H)+.

reactant | sodium | 150 mg | [Na] | Na
reactant | diethyl acetamidomalonate | 25 mmol, 5.3 g | C(C)(=O)NC(C(=O)OCC)C(=O)OCC | C9H15NO5
reactant | ethyl-(2E)-pent-2-enoate | 27.3 mmol, 3.5 g | C(C)OC(\C=C\CC)=O | C7H12O2
reactant | acetic acid | 2 mL | C(C)(=O)O | C2H4O2
solvent | ethanol | 150 mL | C(C)O | C2H6O
product | Diethyl-3-ethyl-5-oxopyrrolidine-2,2-dicarboxylate | 5.6 g, 79.77% | C(C)OC(=O)C1(NC(CC1CC)=O)C(=O)OCC | C12H19NO5
